US05955495
A mixture of 1.2 g (6.7 mmol) of 5,6-difluorobenzofuran-2-carbonitrile, 0.93 g (13.4 mmol) of hydroxylamine hydrochloride, 2.78 g (20.1 mmol) of potassium carbonate and 50 ml of anhydrous ethanol was heated under reflux over 16 hours while stirring. Subsequently, the solid was filtered off and the filtrate was concentrated in a vacuum. The crude product obtained was purified by column chromatography on silica gel (ethyl acetate/hexane 3:2). There was obtained 0.88 g (61%) of 5,6-difluorobenzofuran-2-carboxamidoxime as a light yellow solid with m.p. 184°.

reactant | 5,6-difluorobenzofuran-2-carbonitrile | 6.7 mmol, 1.2 g | FC=1C(=CC2=C(C=C(O2)C#N)C1)F | C9H3F2NO
reactant | hydroxylamine hydrochloride | 13.4 mmol, 0.93 g | Cl.NO
reactant | potassium carbonate | 20.1 mmol, 2.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5,6-difluorobenzofuran-2-carboxamidoxime | 0.88 g, 61% | FC=1C(=CC2=C(C=C(O2)C(N)=NO)C1)F | C9H6F2N2O2
